US06184364B2
Synthesis of 2,2′-Anhydrouridine.
The synthesis of 2′-azido-2′-deoxyuridine (ADU) has been previously published (Moffat et al. (1971) J. Org. Chem. 36:250). According to this procedure, anhydrouridine is treated with 7.1 equivalents of lithium azide in HMPA at 150° C. The desired product is obtained in only 50% yield after separation from a number of by-products. It is desirable to have a process by which ADU is synthesized in high yield without the necessity of further purification by chromatographic processes. Furthermore, it is desirable to avoid the use of HMPA, a known carcinogen.

reactant | 2′-azido-2′-deoxyuridine | N(=[N+]=[N-])[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11N5O5
reactant | lithium azide | 7.1 equivalents | [N-]=[N+]=[N-].[Li+]
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2,2′-Anhydrouridine | 50% yield | C1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=O | C9H10N2O5
